US09193733B2
Step B. 4-({[tert-Butyl(diphenyl)silyl]oxy}methyl)-2-chloro-6-(trifluoromethyl)pyridine
To a solution of [2-chloro-6-(trifluoromethyl)pyridin-4-yl]methanol (142 mg, 0.671 mmol) in methylene chloride (1.0 mL) at 0° C. was added 1H-imidazole (55 mg, 0.80 mmol) followed by tert-butylchlorodiphenylsilane (190 μL, 0.74 mmol) and 4-dimethylaminopyridine (4 mg, 0.03 mmol). The reaction was stirred with warming to room temperature for 64 hours. The reaction mixture was diluted with diethyl ether and was washed with water followed by brine, dried over sodium sulfate, decanted and concentrated. Flash chromatography on silica gel, eluting with a gradient from 0-4% EtOAc in hexanes afforded product as a white solid (0.20 g, 66%). 1H NMR (300 MHz, CDCl3) δ 7.70-7.58 (m, 4H), 7.55-7.34 (m, 8H), 4.77 (s, 2H), 1.12 (s, 9H); 19F NMR (282 MHz, CDCl3) δ −68.49 (s); LCMS (M+H)+: 450.1.

reactant | [2-chloro-6-(trifluoromethyl)pyridin-4-yl]methanol | 0.671 mmol, 142 mg | ClC1=NC(=CC(=C1)CO)C(F)(F)F | C7H5ClF3NO
reactant | 1H-imidazole | 0.80 mmol, 55 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 0.74 mmol, 190 μL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-({[tert-Butyl(diphenyl)silyl]oxy}methyl)-2-chloro-6-(trifluoromethyl)pyridine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC(=C1)C(F)(F)F)Cl | C23H23ClF3NOSi
